US06319695B1
(a) 1,2,3,4-Tetra-O-benzoyl-L-fucose (Compound 2)
Benzoyl chloride (21.4 g, 152.3 mmol; 17.7 mL) was added dropwise to a cooled solution of L-fucose (5.0 g, 30.5 mmol) in pyridine (100 mL), at 0-5° C., and the mixture was stirred for three hours at room temperature. The mixture was poured onto ice water and extracted with ethyl acetate (EtOAc). The extracts were successively washed with ice cold dilute HCl aqueous NaHCO3, and brine, dried over anhydrous MgSO4, and concentrated. The product was used for the next step without further purification.

reactant | Benzoyl chloride | 152.3 mmol, 17.7 mL, 21.4 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | L-fucose | 30.5 mmol, 5.0 g | O=C[C@@H](O)[C@H](O)[C@H](O)[C@@H](O)C | C6H12O5
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 1,2,3,4-Tetra-O-benzoyl-L-fucose | C[C@H]1[C@@H](C([C@@H](C(O1)OC(=O)C2=CC=CC=C2)OC(=O)C3=CC=CC=C3)OC(=O)C4=CC=CC=C4)OC(=O)C5=CC=CC=C5 | C34H28O9
